US06566366B1
b) 2-(5-(((2S)-2-(1-Adamantylmethoxycarbonylamino)-2-tert-butoxycarbonylethyl)carbamoyl)-2-thienyl)-cyclopropancarboxylic Acid Methyl Ester
The compound was synthesized analogously to example 3, step b) from 108 mg (0.2 mmol) of 3-(5-(((2S)-2-(1-adamantylmethoxycarbonylamino)-2-tert-butoxycarbonylethyl)carbamoyl)-2-thienyl)-acrylic acid methyl ester and a diazomethane solution in ether (generated from 0.5 g of N-nitroso-N-methyl-urea) in the presence of 10 mg palladium diacetate. 105 mg of a colourless oil were obtained which was sufficiently pure for use in the subsequent step.

reactant | 3-(5-(((2S)-2-(1-adamantylmethoxycarbonylamino)-2-tert-butoxycarbonylethyl)carbamoyl)-2-thienyl)-acrylic acid methyl ester | 0.2 mmol, 108 mg | COC(C=CC=1SC(=CC1)C(NC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC12CC3CC(CC(C1)C3)C2)=O)=O | C28H38N2O7S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | 0.5 g | CCOCC | C4H10O
catalyst | palladium diacetate | 10 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 2-(5-(((2S)-2-(1-Adamantylmethoxycarbonylamino)-2-tert-butoxycarbonylethyl)carbamoyl)-2-thienyl)-cyclopropancarboxylic Acid Methyl Ester | 105 mg | COC(=O)C1C(C1)C=1SC(=CC1)C(NC[C@@H](C(=O)OC(C)(C)C)NC(=O)OCC12CC3CC(CC(C1)C3)C2)=O | C29H40N2O7S
